### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Measure): bound Hausdorff measure under orthogonal projection

### PR DESCRIPTION
**Pull request by FrankieNC**
Formalisation that Hausdorff measure is non-increasing under orthogonal projection onto a finite-dimensional Euclidean subspace.

This includes:
* a bound on the norm of orthogonal projections;
* a proof that orthogonal projection is 1-Lipschitz;
* the main result: the s-dimensional Hausdorff measure of the projection of a set is less than or equal to that of the original set.

This formalises Lemma 3.5 from Julian Fox’s REU paper:  
*Besicovitch Sets, Kakeya Sets, and Their Properties*, UChicago REU, 2021.  
<https://math.uchicago.edu/~may/REU2021/REUPapers/Fox.pdf>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #25543.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/25543*

### CODE REVIEW

File: scripts/migrate_to_fork.py
Comment (b-mehta) [inline scripts/migrate_to_fork.py:1]: Don't forget to un-commit this change!

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 1]
```diff
@@ -1093,6 +1095,23 @@ theorem hausdorffMeasure_segment {E : Type*} [NormedAddCommGroup E] [NormedSpace
...
 
+/--
+Let `s` be a subset of `𝕜`-inner product space, and `K` a subspace. Then the `d`-dimensional
+Hausdorff measure of the orthogonal projection of `s` onto `K` is less than or equal to the
+`d`-dimensional Hausdorff measure of `s`.
+-/
+theorem hausdorffMeasure_orthogonalProjection_le {𝕜 : Type u_1} {E : Type u_2} [RCLike 𝕜]
+  [NormedAddCommGroup E] [InnerProductSpace 𝕜 E] [MeasurableSpace E] [BorelSpace E]
+  (K : Submodule 𝕜 E) [K.HasOrthogonalProjection]
+  (d : ℝ) (s : Set E) (hs : 0 ≤ d) :
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]:
```suggestion
    [NormedAddCommGroup E] [InnerProductSpace 𝕜 E] [MeasurableSpace E] [BorelSpace E]
    (K : Submodule 𝕜 E) [K.HasOrthogonalProjection]
    (d : ℝ) (s : Set E) (hs : 0 ≤ d) :
```

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 2]
```diff
@@ -1093,6 +1095,23 @@ theorem hausdorffMeasure_segment {E : Type*} [NormedAddCommGroup E] [NormedSpace
...
+    μH[d] (K.orthogonalProjection '' s) ≤ μH[d] s := by
+  have h₁ : LipschitzWith 1 (K.orthogonalProjection) := by
+    apply Submodule.norm_orthogonalProjection_apply
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]:
```suggestion
  have h₁ : LipschitzWith 1 K.orthogonalProjection := Submodule.norm_orthogonalProjection_apply
```

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 3]
```diff
@@ -1093,6 +1095,23 @@ theorem hausdorffMeasure_segment {E : Type*} [NormedAddCommGroup E] [NormedSpace
...
+  have h₂ : μH[d] (Submodule.orthogonalProjection K '' s) ≤ 1 ^ d * μH[d] s := by
+    apply LipschitzWith.hausdorffMeasure_image_le
+    exact h₁; exact hs
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: I expect this can be one-line somehow - what's the suggestion if you do `by?` instead of `by`

File: Mathlib/Topology/MetricSpace/HausdorffDimension.lean [hunk 4]
```diff
@@ -523,3 +523,14 @@ in `F`. -/
...
+/--
+The Hausdorff dimension of the orthogonal projection of a set `s` onto a subspace `K`
+is less than or equal to the Hausdorff dimension of `s`.
+-/
+theorem dimH_orthogonalProjection_le {𝕜 : Type u_1} {E : Type u_2} [RCLike 𝕜]
+  [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+  (K : Submodule 𝕜 E) [K.HasOrthogonalProjection] (s : Set E) :
+    dimH (K.orthogonalProjection '' s) ≤ dimH s := by
+  apply LipschitzWith.dimH_image_le
+  apply Submodule.norm_orthogonalProjection_apply
```
Comment (b-mehta) [inline Mathlib/Topology/MetricSpace/HausdorffDimension.lean]: Similarly here, try `by?` to get Lean to tell you the term mode proof, which here should also be nice and clean

File: Mathlib/Topology/MetricSpace/HausdorffDimension.lean [hunk 5]
```diff
@@ -523,3 +523,14 @@ in `F`. -/
...
     (h : ContDiff ℝ 1 f) (hEF : finrank ℝ E < finrank ℝ F) : Dense (range f)ᶜ :=
   dense_compl_of_dimH_lt_finrank <| h.dimH_range_le.trans_lt <| Nat.cast_lt.2 hEF
+
+/--
+The Hausdorff dimension of the orthogonal projection of a set `s` onto a subspace `K`
+is less than or equal to the Hausdorff dimension of `s`.
+-/
+theorem dimH_orthogonalProjection_le {𝕜 : Type u_1} {E : Type u_2} [RCLike 𝕜]
+  [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
+  (K : Submodule 𝕜 E) [K.HasOrthogonalProjection] (s : Set E) :
```
Comment (b-mehta) [inline Mathlib/Topology/MetricSpace/HausdorffDimension.lean]:
```suggestion
    [NormedAddCommGroup E] [InnerProductSpace 𝕜 E]
    (K : Submodule 𝕜 E) [K.HasOrthogonalProjection] (s : Set E) :
```

File: Mathlib/Topology/MetricSpace/HausdorffDimension.lean [hunk 6]
```diff
@@ -523,3 +523,14 @@ in `F`. -/
 theorem ContDiff.dense_compl_range_of_finrank_lt_finrank [FiniteDimensional ℝ F] {f : E → F}
     (h : ContDiff ℝ 1 f) (hEF : finrank ℝ E < finrank ℝ F) : Dense (range f)ᶜ :=
   dense_compl_of_dimH_lt_finrank <| h.dimH_range_le.trans_lt <| Nat.cast_lt.2 hEF
+
+/--
+The Hausdorff dimension of the orthogonal projection of a set `s` onto a subspace `K`
+is less than or equal to the Hausdorff dimension of `s`.
+-/
+theorem dimH_orthogonalProjection_le {𝕜 : Type u_1} {E : Type u_2} [RCLike 𝕜]
```
Comment (b-mehta) [inline Mathlib/Topology/MetricSpace/HausdorffDimension.lean]:
```suggestion
theorem dimH_orthogonalProjection_le {𝕜 : Type u_1} [RCLike 𝕜]
```
I haven't tested this, but since E is used earlier, I guess you don't need it here either.

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 7]
```diff
@@ -182,7 +182,7 @@ instance (priority := 100) BorelSpace.opensMeasurable {α : Type*} [TopologicalS
   ⟨ge_of_eq <| BorelSpace.measurable_eq⟩
 
 instance Subtype.borelSpace {α : Type*} [TopologicalSpace α] [MeasurableSpace α]
-    [hα : BorelSpace α] (s : Set α) : BorelSpace s :=
+    [hα : BorelSpace α] (p : α → Prop) : BorelSpace (Subtype p) :=
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean:185]: For other reviewers: the change in this file is a syntactic generalisation to this instance and a related one below, suggested by sgouezel, which allows removing the two local duplicated instances in Disintegration.lean, and also let Lean find the BorelSpace instance in the new `hausdorffMeasure_orthogonalProjection_le` lemma. These changes aren't that disjoint from this PR: they're needed for it but motivated by it, so in my opinion it's fine to keep this as one PR rather than split it.

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean [hunk 8]
```diff
@@ -281,6 +275,21 @@ theorem opNorm_smul_le {𝕜' : Type*} [NormedField 𝕜'] [NormedSpace 𝕜' F]
...
+  constructor
+  · intro h
+    refine LipschitzWith.of_dist_le_mul fun x y ↦ ?_
+    rw [dist_eq_norm, dist_eq_norm, ← f.map_sub]
+    calc
+      ‖f (x - y)‖ ≤ ‖f‖ * ‖x - y‖ := by apply le_opNorm
+      _ ≤ K * ‖x - y‖ := by gcongr
+  · intro hf
+    exact f.opNorm_le_bound K.2 fun x => by
+      simpa only [dist_zero_right, f.map_zero] using hf.dist_le_mul x 0
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/OperatorNorm/Basic.lean]: We have some convenience lemmas to help with this.
```suggestion
    ‖f‖ ≤ K ↔ LipschitzWith K f :=
  ⟨fun h ↦ by simpa using AddMonoidHomClass.lipschitz_of_bound f K <| le_of_opNorm_le f h,
    fun hf ↦ f.opNorm_le_bound K.2 <| hf.norm_le_mul (map_zero f)⟩
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 9]
```diff
@@ -586,6 +587,33 @@ variable (K)
 theorem orthogonalProjection_norm_le : ‖K.orthogonalProjection‖ ≤ 1 :=
   LinearMap.mkContinuous_norm_le _ (by norm_num) _
 
+/-- The orthogonal projection onto a closed subspace is norm non-increasing. -/
+theorem norm_orthogonalProjection_apply_le (v : E) :
+    ‖orthogonalProjection K v‖ ≤ ‖v‖ := by calc
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean:596]: It would be nice to have this one too
```suggestion
theorem norm_orthogonalProjection_apply {v : E} (hv : v ∈ K) :
    ‖orthogonalProjection K v‖ = ‖v‖ :=
  congr(‖$(K.orthogonalProjection_eq_self_iff.mpr hv)‖)

/-- The orthogonal projection onto a closed subspace is norm non-increasing. -/
theorem norm_orthogonalProjection_apply_le (v : E) :
    ‖orthogonalProjection K v‖ ≤ ‖v‖ := by calc
```

File: Mathlib/Analysis/InnerProductSpace/Projection.lean [hunk 10]
```diff
@@ -586,6 +587,33 @@ variable (K)
...
+  obtain ⟨x, hxK, hx_ne_zero⟩ := Submodule.exists_mem_ne_zero_of_ne_bot hK
+  set x' : E := (‖x‖⁻¹ : 𝕜) • x
+  have hx'_mem : x' ∈ K := K.smul_mem _ hxK
+  have hx'_norm : ‖x'‖ = 1 := norm_smul_inv_norm hx_ne_zero
+  have h_proj : K.orthogonalProjection x' = x' := orthogonalProjection_eq_self_iff.mpr hx'_mem
+  calc
+    1 = ‖x'‖ := symm hx'_norm
+    _ = ‖K.orthogonalProjection x'‖ := by simp only [AddSubgroupClass.coe_norm, h_proj]
+    _ ≤ ‖orthogonalProjection K‖ * ‖x'‖ := ContinuousLinearMap.le_opNorm _ _
+    _ = ‖orthogonalProjection K‖ := by rw [hx'_norm]; simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection.lean]: No need to use a unit vector, the lemma you want here is `ContinuousLinearMap.ratio_le_opNorm` (or `unit_le_opNorm` if you really want an element of the unit ball).
```suggestion
  simpa [K.norm_orthogonalProjection_apply hxK, norm_eq_zero, hx_ne_zero]
    using K.orthogonalProjection.ratio_le_opNorm x
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! just a few minor suggestions.

**Comment by j-loreaux** [comment]
bors d=b-mehta

File: Mathlib/Analysis/InnerProductSpace/Projection.lean (hunk 9 above)
Comment (b-mehta) [reply Mathlib/Analysis/InnerProductSpace/Projection.lean:596]: For the `norm_orthogonalProjection_apply`, it seems to me that we'd rather just rewrite `orthogonalProjection K v` to `v` in this case, instead of having an extra lemma for that rewrite after the norm has been applied. In general, I think it's preferable to avoid having a lemma `f v = f w` in the case that `v = w` (unless there are some motive-related or implicit/instance argument reasons to do so, which there aren't here). What do you think?

Comment (b-mehta) [reply Mathlib/Analysis/InnerProductSpace/Projection.lean:596]: Oh, now I understand that there are reasons to do so here, I will add this as you suggest!

**Comment by b-mehta** [comment]
bors merge
